US05290801
Preparation of N'-(2,4-difluorophenyl)-N-heptyl-N-[5-(4,5,6,7-tetrahydro-1H-benzimidazol-2-ylthio)pentyl]urea
Part B. To a suspension of sodium hydride (0.099 g, 0.004 mol; washed free of the mineral oil with hexane) in N,N-dimethylformamide (15 ml) under a nitrogen atmosphere, cooled to 0°, 4,5,6,7-tetrahydrobenzimidazol-2-thione (0.50 g, 0.0033 mol) was added slowly. The reaction mixture was stirred for two hours and then a solution of N-(5-bromopentyl)-N'-(2,4-difluorophenyl)-N-heptyl urea (1.38 g, 0.0033 mol) in N,N-dimethylformamide (5 ml) was added. The reaction mixture was stirred at 0° for one hour, at ambient temperature for one hour, then was poured into water (50 ml) and extracted with ethyl acetate (2×50 ml). The combined organic extracts were washed with water and brine, then dried over magnesium sulfate and concentrated to give the crude product. The product was purified by flash chromatography on silica gel (250 ml) eluting with hexane: ethyl acetate (50:50::v:v) to give the title compound as a solid (0.30 g, 0.0006 mol), mp 98°-100°. 1H NMR (CDCl3) δ10.0-9.4 (bs,1H), 8.05-7.87 (m,1H), 6.91-6.75 (m,2H), 6.5-6.41 (d,1H,J=3.75 Hz), 3.42-3.2 (m,4H), 2.96-2.85 (t,2H,J=6.0 Hz), 2.61-2.45 (m,4H), 1.81-1.22 (m,20H), 0.88 (t,3H,J=6.5 Hz).

reactant | sodium hydride | [H-].[Na+]
reactant | 4,5,6,7-tetrahydrobenzimidazol-2-thione | 0.0033 mol, 0.50 g | N=1C(N=C2C1CCCC2)=S | C7H8N2S
reactant | N-(5-bromopentyl)-N'-(2,4-difluorophenyl)-N-heptyl urea | 0.0033 mol, 1.38 g | BrCCCCCN(C(=O)NC1=C(C=C(C=C1)F)F)CCCCCCC | C19H29BrF2N2O
reactant | water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N'-(2,4-difluorophenyl)-N-heptyl-N-[5-(4,5,6,7-tetrahydro-1H-benzimidazol-2-ylthio)pentyl]urea | 0.0006 mol, 0.30 g | FC1=C(C=CC(=C1)F)NC(N(CCCCCSC1=NC2=C(N1)CCCC2)CCCCCCC)=O | C26H38F2N4OS
